US08466282B2
Ethyl 3-(chloromethyl)imidazo[1,2-a]pyridine-2-carboxylate hydrochloride
To a solution of ethyl 3-(hydroxymethyl)imidazo[1,2-a]pyridine-2-carboxylate (2.85 g) in chloroform (40 ml) was added thionyl chloride (8.0 ml) at room temperature, and the mixture was heated under reflux for 12 hr. The reaction solution was cooled to room temperature, and concentrated under reduced pressure. The precipitated crystals were collected by filtration, washed with diethyl ether to give the object product (3.50 g).

reactant | ethyl 3-(hydroxymethyl)imidazo[1,2-a]pyridine-2-carboxylate | 2.85 g | OCC1=C(N=C2N1C=CC=C2)C(=O)OCC | C11H12N2O3
reactant | thionyl chloride | 8.0 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 3-(chloromethyl)imidazo[1,2-a]pyridine-2-carboxylate hydrochloride | 3.50 g | Cl.ClCC1=C(N=C2N1C=CC=C2)C(=O)OCC | InChI=1S/C11H11ClN2O2.ClH/c1-2-16-11(15)10-8(7-12)14-6-4-3-5-9(14)13-10;/h3-6H,2,7H2,1H3;1H
